US07592373B2
3.1.e. 3-phenylpropynoic acid-[4-(2-diethylaminoethoxy)phenyl]methylamide
A solution of 0.29 g (2 mmol) of phenylpropynoic acid, 0.44 g (2 mmol) of [4-(2-diethylaminoethoxy)phenyl]methylamine, 0.7 g (2.2 mmol) of TBTU, 0.29 g (2.2 mmol) of HOBT and 0.51 mL (3 mmol) of Hünig base in 30 mL of THF and 2 mL of DMF is stirred for 14 hours at ambient temperature. The reaction mixture is evaporated down. The purification is carried out by column chromatography on silica gel (dichloromethane/methanol (80:20)). Yield: 130 mg (18.5% of theory); C22H26N2O2 (M=350.46); calc.: molecular ion peak (M+H)+: 351; found: molecular ion peak (M+H)+: 351; Rf value: 0.39 (silica gel, dichloromethane/methanol (80:20)).

reactant | phenylpropynoic acid | 2 mmol, 0.29 g | C1(=CC=CC=C1)C#CC(=O)O | C9H6O2
reactant | [4-(2-diethylaminoethoxy)phenyl]methylamine | 2 mmol, 0.44 g | C(C)N(CCOC1=CC=C(C=C1)CN)CC | C13H22N2O
reactant | TBTU | 2.2 mmol, 0.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBT | 2.2 mmol, 0.29 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Hünig base | 3 mmol, 0.51 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-phenylpropynoic acid-[4-(2-diethylaminoethoxy)phenyl]methylamide | C(C)N(CCOC1=CC=C(C=C1)CNC(C#CC1=CC=CC=C1)=O)CC | C22H26N2O2
